US08754095B2
4-Bromo-2-methyl-N-(tetrahydro-pyran-4-yl)-benzamide
The title compound was prepared in substantially the same way as intermediate (iv) by coupling of tetrahydropyran-4-yl amine with 4-bromo-2-methylbenzoic acid to give 0.65 g (100% yield) as a thick oil which solidified on standing.

reactant | tetrahydropyran-4-yl amine | O1CCC(CC1)N | C5H11NO
reactant | 4-bromo-2-methylbenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
product | 4-Bromo-2-methyl-N-(tetrahydro-pyran-4-yl)-benzamide | 100% yield | BrC1=CC(=C(C(=O)NC2CCOCC2)C=C1)C | C13H16BrNO2
